US08735414B2
2-[5-(tert-butylsulfamoyl)pyridin-2-yl]-1-cyclopentyl-5-fluoro-6-methyl-1H-indole-3-carboxamide (Cpd 683)
Into a solution of N-tert-butyl-6-(3-cyano-1-cyclopentyl-5-fluoro-6-methyl-1H-indol-2-yl)pyridine-3-sulfonamide (90 mg, 0.2 mmol) in TFA (2.0 mL) was added 2 drops of water. The mixture was stirred at 40° C. for 30 min and then evaporated. The residue was purified on silica gel eluting with 5 to 30% ethyl acetate in CH2Cl2 to provide the title compound (19 mg, 20%). MS m/z 473.3 M+H+; 1H NMR (500 MHz, DMSO-d6): δ 9.10 (1H, dd, J=2.0, 1.0 Hz), 8.29 (1H, dd, J=10.5, 2.5 Hz), 7.89 (1H, s), 7.81 (1H, dd, J=8.5, 1.0 Hz), 7.59 (1H, d, J=10.5 Hz), 7.49 (1H, d, J=6.5 Hz), 7.02 (2H, br s), 4.63-4.56 (1H, m), 2.46 (3H, s), 2.16-2.08 (2H, m), 1.96-1.85 (4H, m), 1.60-1.56 (2H, m), 1.17 (9H, s).

reactant | N-tert-butyl-6-(3-cyano-1-cyclopentyl-5-fluoro-6-methyl-1H-indol-2-yl)pyridine-3-sulfonamide | 0.2 mmol, 90 mg | C(C)(C)(C)NS(=O)(=O)C=1C=NC(=CC1)C=1N(C2=CC(=C(C=C2C1C#N)F)C)C1CCCC1 | C24H27FN4O2S
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | water | 2 drops | O | H2O
product | 2-[5-(tert-butylsulfamoyl)pyridin-2-yl]-1-cyclopentyl-5-fluoro-6-methyl-1H-indole-3-carboxamide | 19 mg, 20% | C(C)(C)(C)NS(=O)(=O)C=1C=CC(=NC1)C=1N(C2=CC(=C(C=C2C1C(=O)N)F)C)C1CCCC1 | C24H29FN4O3S
